US09359338B2
Step 1: 1-(3-fluoro-5-nitro-phenyl)ethanone
Mix 1-fluoro-3-iodo-5-nitro-benzene (1 g, 3.75 mmol), tributyl(1-ethoxyvinyl)stannane (1.5 g, 4.15 mmol) and Pd(dppf)Cl2 (78 mg, 0.1 mmol) in toluene (5 mL) under N2. Stir at 100° C. under N2 atmosphere for 3 hrs. Cool to room temperature, add 1N HCl solution (5 mL) and stir for 20 min. Load directly onto silica gel column and purify by chromatography (EtOAc:PE=3:7) to give the title compound (660 mg, 96%).

reactant | 1-fluoro-3-iodo-5-nitro-benzene | 3.75 mmol, 1 g | FC1=CC(=CC(=C1)[N+](=O)[O-])I | C6H3FINO2
reactant | tributyl(1-ethoxyvinyl)stannane | 4.15 mmol, 1.5 g | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | HCl | 1N, 5 mL | Cl | ClH
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dppf)Cl2 | 0.1 mmol, 78 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(3-fluoro-5-nitro-phenyl)ethanone | 660 mg, 96% | FC=1C=C(C=C(C1)[N+](=O)[O-])C(C)=O | C8H6FNO3
